US05686564
To a suspension of 1-(Nα -(3-(α,α-dimethylbenzyl)benzenesulphonyl)-(S)-arginyl)-4-(ethoxycarbonylmethyl)piperidine (500 mg) in absolute ethanol (2.5 ml) is added aqueous 1M NaOH (1.7 ml) and the mixture is stirred for 24 hours at room temperature. The reaction mixture is then chromatographed on Amberlite resin CG120(H+) (25 ml). The resin column is eluted fast with aqueous 50% ethanol until neutral pH, then with ethanol/H2O/NH3 (sp.gr. 0.88) (5:4:1). The fractions containing the product are evaporated to give a residue which is co-evaporated (3 times) with ethanol, triturated with ether, collected by filtration, washed with ether and dried in vacuo. Thus is obtained 1-(Nα -(3-(α,α-dimethylbenzyl)benzenesulphonyl)-(S)-arginyl)piperidine-4-acetic acid, m.p. 188°-191° C., Rf (BuOH/HOAc/H2O 3:1:1) 0.58. 13C NMR spectrum is consistent with the product.

reactant | 1-(Nα -(3-(α,α-dimethylbenzyl)benzenesulphonyl)-(S)-arginyl)-4-(ethoxycarbonylmethyl)piperidine | 500 mg | CC(C1=CC=CC=C1)(C)C=1C=C(C=CC1)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N1CCC(CC1)CC(=O)OCC | C30H43N5O5S
reactant | NaOH | 1M, 1.7 ml | [OH-].[Na+]
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
product | 1-(Nα -(3-(α,α-dimethylbenzyl)benzenesulphonyl)-(S)-arginyl)piperidine-4-acetic acid | CC(C1=CC=CC=C1)(C)C=1C=C(C=CC1)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N1CCC(CC1)CC(=O)O | C28H39N5O5S
